US08071824B2
1-(2-Aminophenyl)-3,3-dimethylbutan-2-ol
3 g (13.4 mmol) of 3,3-dimethyl-1-(2-nitrophenyl)butan-2-ol are stirred in 50 ml of THF with 2.06 g of 65 percent sulfuric acid and 0.214 g of palladium/carbon (10%) at 90° C. under 10 bar of hydrogen pressure for 16 hours. Subsequently, the solution is filtered with suction through Celite and the filtrate is concentrated by rotary evaporation. After dissolution in ethyl acetate, washing with saturated sodium bicarbonate solution, and removal and concentration of the organic phase under reduced pressure, 2.2 g (75% of theory) of a solid are obtained. Purity (GC-MS): 88%.

reactant | 3,3-dimethyl-1-(2-nitrophenyl)butan-2-ol | 13.4 mmol, 3 g | CC(C(CC1=C(C=CC=C1)[N+](=O)[O-])O)(C)C | C12H17NO3
reactant | sulfuric acid | 2.06 g | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen | [H][H] | H2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | palladium/carbon | 0.214 g | [Pd] | Pd
product | 1-(2-Aminophenyl)-3,3-dimethylbutan-2-ol | NC1=C(C=CC=C1)CC(C(C)(C)C)O | C12H19NO
